US04018794
A mixture of 4-benzyl-3-mercapto-5-sulfamylbenzoic acid (3.25 g), sodium hydrogen carbonate (2.0 g), sodium dithionite (2.0 g), 4-vinylpyridine (1.5 ml) and saturated sodium hydrogen carbonate (33 ml) is stirred at 70° C. for 4 hours. After cooling, the mixture is acidified with 4 N acetic acid. The separated material is collected by filtration and washed with water. After drying and recrystallization twice from aqueous ethanol, 4-benzyl-3-(4-pyridylethylthio)-5-sulfamylbenzoic acid is obtained as a hemihydrate with a melting point of 180° -182° C..

reactant | 4-benzyl-3-mercapto-5-sulfamylbenzoic acid | 3.25 g | C(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)S | C14H13NO4S2
reactant | sodium hydrogen carbonate | 2.0 g | C(O)([O-])=O.[Na+]
reactant | sodium dithionite | 2.0 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 4-vinylpyridine | 1.5 ml | C(=C)C1=CC=NC=C1 | C7H7N
reactant | sodium hydrogen carbonate | 33 ml | C(O)([O-])=O.[Na+]
solvent | acetic acid | 4 N | C(C)(=O)O | C2H4O2
product | 4-benzyl-3-(4-pyridylethylthio)-5-sulfamylbenzoic acid | C(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)SCCC1=CC=NC=C1 | C21H20N2O4S2
